US09415049B2
In a 25 mL 3-neck RBF equipped with a calcium chloride guard tube, N-(3-((2-((4-(2-((tert-butyldimethylsilyl)oxy)ethoxy)phenyl)amino)-5-fluoropyrimidin-4-yl)amino)phenyl)-2,3-dihydroxypropanamide (2.0 g), in THF (25 mL), was added TEA (0.724 g). The reaction mixture was cooled to 0° C. and a solution of CH3SO2Cl (0.491 g) in THF was added dropwise. The reaction mixture was stirred at room temperature for 3 hr. The reaction was monitored on TLC using CHCl3:methanol (9:1) as mobile phase. After completion of reaction, water and saturated NaHCO3 solution were added. The mixture was extracted into ethyl acetate. The organic layer was washed dried over sodium sulfate and concentrated under reduced pressure at 40° C. The crude material was purified by Combiflash eluted with 2.2% methanol in CHCl3 to give 0.24 g of 3-((3-((2-((4-(2-((tert-butyldimethylsilyl)oxy)ethoxy)phenyl)amino)-5-fluoropyrimidin-4-yl)amino)phenyl)amino)-2-hydroxy-3-oxopropyl methanesulfonate.

reactant | N-(3-((2-((4-(2-((tert-butyldimethylsilyl)oxy)ethoxy)phenyl)amino)-5-fluoropyrimidin-4-yl)amino)phenyl)-2,3-dihydroxypropanamide | 2.0 g | [Si](C)(C)(C(C)(C)C)OCCOC1=CC=C(C=C1)NC1=NC=C(C(=N1)NC=1C=C(C=CC1)NC(C(CO)O)=O)F | C27H36FN5O5Si
reactant | CH3SO2Cl | 0.491 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | CHCl3 methanol | C(Cl)(Cl)Cl.CO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 3-((3-((2-((4-(2-((tert-butyldimethylsilyl)oxy)ethoxy)phenyl)amino)-5-fluoropyrimidin-4-yl)amino)phenyl)amino)-2-hydroxy-3-oxopropyl methanesulfonate | 0.24 g | CS(=O)(=O)OCC(C(=O)NC1=CC(=CC=C1)NC1=NC(=NC=C1F)NC1=CC=C(C=C1)OCCO[Si](C)(C)C(C)(C)C)O | C28H38FN5O7SSi
